US07449466B2
Production Example 1 was repeated except that 1-(4-methoxyphenyl)piperazine dihydrochloride and (2-bromoethyl)-benzene were replaced with 1-(2,5-difluoro-4-methoxyphenyl)-piperazine (342 mg) and 2-cyclohexylethyl methylsulfonate (309 mg), respectively, to provide crude 1-(2-cyclohexylethyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine (476 mg).

reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | (2-bromoethyl)-benzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 1-(2,5-difluoro-4-methoxyphenyl)-piperazine | 342 mg | FC1=C(C=C(C(=C1)OC)F)N1CCNCC1 | C11H14F2N2O
reactant | 2-cyclohexylethyl methylsulfonate | 309 mg | CS(=O)(=O)OCCC1CCCCC1 | C9H18O3S
product | 1-(2-cyclohexylethyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine | 476 mg | C1(CCCCC1)CCN1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F | C19H28F2N2O
